US08017611B2
Tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-bromo-2-pyridyl]-N-tert-butoxycarbonyl-carbamate (4.78 g), potassium acetate (2.97 g), PdCl2(dppf) (0.394 g) and 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (2.72 g) were suspended in dioxane (45 ml). The mixture was degassed with nitrogen at 25° C. The resulting suspension was stirred at 80° C. under nitrogen for 3 hours. The reaction mixture was diluted with ethyl acetate (45 ml). The insolubles were removed by filtration and the filtrate was concentrated. The black oil was sonicated in petroleum ether (90 ml) for 10 minutes. The resultant solid was collected by filtration, washed with petroleum ether and dried, to give crude tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate (5.10 g) as a solid. NMR Spectrum (CDCl3): 1.29 (s, 18H), 1.40 (s, 12H), 7.34-7.44 (m, 2H), 7.60 (dd, 1H), 7.80 (dd, 1H), 8.97 (d, 1H), 9.03 (d, 1H)

reactant | Tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-bromo-2-pyridyl]-N-tert-butoxycarbonyl-carbamate | 4.78 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)Br)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C22H24BrN3O5
reactant | potassium acetate | 2.97 g | C(C)(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 2.72 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.394 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate | 5.10 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C28H36BN3O7
